US07772223B2
1-Chloro-3-Fluoro-2-Methoxybenzene
Methyl iodide (850 μl, 13.646 mmol) and potassium carbonate (943 mg, 6.824 mmol) were added to 2-chloro-6-fluorophenol (1.0 g, 6.824 mmol) in tetrahydrofuran (10 ml) and the mixture was stirred at room temperature for 3 hours. The reaction mixture was partitioned between diethyl ether (50 ml) and water (50 ml). The organic phase was extracted and further washed with water (2×20 ml) then dried over sodium sulphate and concentrated in vacuo to afford the title compound as a colourless liquid in 94% yield, 1.03 g.

reactant | Methyl iodide | 13.646 mmol, 850 μl | CI | CH3I
reactant | potassium carbonate | 6.824 mmol, 943 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 2-chloro-6-fluorophenol | 6.824 mmol, 1.0 g | ClC1=C(C(=CC=C1)F)O | C6H4ClFO
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 1-Chloro-3-Fluoro-2-Methoxybenzene | 94% yield | ClC1=C(C(=CC=C1)F)OC | C7H6ClFO
